US09428503B2
Intermediate M4: 6-Bromo-N-(4-methyloxan-4-yl)-3-nitroquinolin-4-amine
A solution of 6-bromo-4-chloro-3-nitroquinoline (1 g, 3.48 mmol), 4-methyltetrahydro-2H-pyran-4-amine hydrochloride (1.055 g, 6.96 mmol) and triethylamine (1.939 mL, 13.91 mmol) in DMF (10 mL) was heated to 100° C. for 1 h in a sealed tube in the microwave reactor. The mixture was allowed to cool then poured into stirred water (50 mL) and the resulting yellow precipitate was collected by filtration and dried under vacuum to afford the desired material (1.070 g, 84%) as a yellow solid. This was used without further purification. NMR Spectrum: 1H NMR (400 MHz, DMSO-d6) δ 1.40 (3H, s), 1.78 (2H, dt), 1.89 (2H, ddd), 3.51-3.64 (4H, m), 7.80 (1H, s), 7.91 (1H, d), 8.01 (1H, dd), 8.48 (1H, d), 9.18 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=366, 368.

reactant | 6-bromo-4-chloro-3-nitroquinoline | 3.48 mmol, 1 g | BrC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | 4-methyltetrahydro-2H-pyran-4-amine hydrochloride | 6.96 mmol, 1.055 g | Cl.CC1(CCOCC1)N
reactant | triethylamine | 13.91 mmol, 1.939 mL | C(C)N(CC)CC | C6H15N
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-N-(4-methyloxan-4-yl)-3-nitroquinolin-4-amine | 1.070 g, 84% | BrC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NC1(CCOCC1)C | C15H16BrN3O3
